US07951951B2
905.0 mg (6.95 mmol) of 4-hydroxy-5-hydroxymethylfuran-2(5H)-one (VII-1a) and 991.8 mg (6.95 mmol) of 3-aminomethyl-6-chloropyridine are stirred in the mixture of 100.5 ml of toluene and 10 ml of N,N-dimethylformamide (DMF), and 10 mg of para-toluenesulphonic acid and 0.5 ml of acetic acid are added. With stirring, the entire reaction mixture is then heated at reflux on a water separator for about 18 hours. Concentration under reduced pressure and purification of the residue by column chromatography on silica gel (silica gel 60, Merck, particle size: 0.04 to 0.063 mm; mobile phase: cyclohexane/acetone=1:1) gives 394.2 mg (22.2% of theory) of 5-hydroxymethyl-4-{[(6-chloropyridin-3-yl)methyl]amino}furan-2(5H)-one.

reactant | 4-hydroxy-5-hydroxymethylfuran-2(5H)-one | 6.95 mmol, 905.0 mg | OC1=CC(OC1CO)=O | C5H6O4
reactant | 3-aminomethyl-6-chloropyridine | 6.95 mmol, 991.8 mg | NCC=1C=NC(=CC1)Cl | C6H7ClN2
reactant | toluene | 100.5 ml | C1(=CC=CC=C1)C | C7H8
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | para-toluenesulphonic acid | 10 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
solvent | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
product | 5-hydroxymethyl-4-{[(6-chloropyridin-3-yl)methyl]amino}furan-2(5H)-one | 394.2 mg, 22.2% | OCC1C(=CC(O1)=O)NCC=1C=NC(=CC1)Cl | C11H11ClN2O3
